US05670505
To a stirred mixture of (2R)-4-(3-aminopropyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.20 g) and triethylamine (0.06 ml) in tetrahydrofuran (10 ml) was added 4-nitrophenyl chloroformate (0.08 g) under ice-cooling. After 35 minutes, the resulting precipitate was filtered off. To the filtrate were added triethylamine (0.06 ml) and 30% methylamine in ethanol (0.05 ml) at room temperature. After stirring for 1 hour and 40 minutes, additional 30% methylamine in ethanol (0.05 ml) was added to the reaction mixture and then stirred for 45 minutes. The reaction mixture was concentrated in vacuo and the residue was partitioned between dichloromethane and water. The organic layer was separated, washed with aqueous saturated sodium chloride solution and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on silica gel eluting with a mixed solvent of dichloromethane and methanol (100:3). The eluate was treated with 4N hydrogen chloride in dioxane solution to afford (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[3-(3-methylureido)propyl]-piperazine hydrochloride (0.08 g).

reactant | (2R)-4-(3-aminopropyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.20 g | NCCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C25H26F6N4O
reactant | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 0.08 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[3-(3-methylureido)propyl]-piperazine hydrochloride | 0.08 g | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCNC(=O)NC)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C27H29F6N5O2.ClH/c1-34-25(40)35-7-4-8-37-9-10-38(21(16-37)13-18-15-36-23-6-3-2-5-22(18)23)24(39)17-11-19(26(28,29)30)14-20(12-17)27(31,32)33;/h2-3,5-6,11-12,14-15,21,36H,4,7-10,13,16H2,1H3,(H2,34,35,40);1H/t21-;/m1./s1
